Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fall with loss of consciousness
 
Major Surgical or Invasive Procedure:
echocardiography

 
History of Present Illness:
This patient is a ___ year old male with a history of CAD s/p 3V 
CABG ___ yrs ago, hypothyroidism and postural hypotension who 
presents s/p fall with LOC.  
.  
He reports standing up from his chair after watching the evening 
news and walking to the front door. After several paces he fell 
forward onto his face and feels that he lost consciousness for 5 
seconds and woke up shortly after falling.  He felt weak 
immediately after the fall, and his wife assisted him up. He 
denies associated chest pain, lightheadedness, palpitations. 
infectious ROS is negative. He denies HA or vision changes, 
after the fall but notes that he broke his glasses and lost a 
significant blood from his nose. No incontinence of stool or 
urine, and no tongue biting. He reports that he has frequent 
falls and near-falls, with ___ falls in the past ___ years. No 
seizure-like sx have been noted on prior witnessed falls and he 
reports no post-ictal like symptoms, or acute confusion after 
falling. He states that he is able to recall everything from 
immediately before and after his LOC.  He was hospitalized ___ 
years ago at ___ after a similar episode and had 
a lengthy w/u including consultation with an endocrinologist who 
prescribed a three times daily medication. He was also advised 
by his PCP to never sit for more than 15 min at a time and to 
get up slowly. He was referred to physical therapy. His last 
echo was in ___ and revealed mild AS, mild MR, mild 
concentric LVH with diastolic dysfunction, with LVEF of 65%. 
.  
In the ED, initial vitals were: 98.7 125/73 72 16 98RA. He had a 
laceration on his forehead with a deformity of his nose with 
epistaxis. There is a question of whether he is on blood 
thinners. He was immobilized on arrival. A head ct and cspine ct 
were negative. A facial ct revealed a nasal bone fracture. He 
received a tetanus immunization and 1L IVF. Labs were 
significant for an INR of 1.0.  
.  
On the floor, initial vitals were 96.9 110/68 65 18 100% RA. He 
reports feels better. He denies chest pain, palpitations or 
discomfort.  
.
This AM, he reports that he is feeling well, but feels dizzy 
upon standing.  He denies chest pain, palpitations or any 
further episodes of LOC.
.  
ROS: Denies fever, chills, night sweats, headache, vision 
changes,  sore throat, cough, shortness of breath, chest pain, 
abdominal pain, nausea, vomiting, diarrhea, constipation, BRBPR, 
melena, hematochezia, dysuria, hematuria.  
.  

 
Past Medical History:
CABG  
postural hypotension
hypercholesterolemia  
arteriosclerosis 
 
Social History:
___
Family History:
Unknown
 
Physical Exam:
Admission exam:
.
VS:96.9 110/68 65 18 100% RA.  
GENERAL: Well-appearing man in NAD, comfortable, appropriate.  
HEENT: NC/AT, EOMI, sclerae anicteric, MMM, nasal deformity,  
lacerations on nose and over eyebrow with dressing w/ dried 
blood. Bruising noted on nasal bridge, below left eye, and over 
left lip.  
NECK: Supple, no thyromegaly, no carotid bruits.  
HEART: RRR, ___ crescendo-decrescendo systolic ejection murmur 
heard loudest at LUSB  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored. 
 
ABDOMEN: Soft/NT/ND, no masses or HSM, no rebound/guarding.  
EXTREMITIES: WWP, no c/c/e, 2+ peripheral pulses.  
SKIN: Lacerations and ecchymoses on face as noted above. 
NEURO: Awake, A&Ox3, CNs II-XII grossly intact, strength 5 of 5 
throughout, sensation grossly intact to light touch, cerebellar 
exam normal.
.
Discharge exam:
.
VS: Tmax 97.9, Tc 97.9, BP 97/68, HR 66, RR 18, O2sat 100% RA
GENERAL: Well-appearing man in NAD, comfortable, appropriate.  
HEENT: NC/AT, EOMI, sclerae anicteric, MMM, nasal deformity, 
healing lacerations on nose and over eyebrow.  Bruising noted on 
nasal bridge, below left eye, and over left lip.  
NECK: Supple, no thyromegaly.
HEART: RRR, ___ crescendo-decrescendo systolic ejection murmur 
heard loudest at ___, unchanged from initial exam  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored. 
 
ABDOMEN: Soft/NT/ND, no masses or HSM, no rebound/guarding.  
EXTREMITIES: WWP, no c/c/e, 2+ peripheral pulses.  
SKIN: Lacerations and ecchymoses on face as noted above. 
NEURO: Awake, A&Ox3.
 
Pertinent Results:
ADMISSION LABS:
___ 09:17PM BLOOD WBC-8.1 RBC-4.21* Hgb-13.8* Hct-39.0* 
MCV-93 MCH-32.8* MCHC-35.4* RDW-13.1 Plt ___
___ 09:17PM BLOOD Neuts-81.7* Lymphs-12.9* Monos-4.0 
Eos-1.0 Baso-0.4
___ 08:10PM BLOOD ___ PTT-22.7 ___
___ 08:10PM BLOOD Glucose-133* UreaN-21* Creat-2.3* Na-142 
K-3.4 Cl-101 HCO3-27 AnGap-17
___ 08:10PM BLOOD cTropnT-<0.01
___ 08:10PM BLOOD Calcium-9.7 Phos-2.6* Mg-2.8*
___ 08:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:11PM BLOOD pH-7.44 Comment-GREEN TOP 
___ 08:11PM BLOOD freeCa-1.08*
___ 05:23AM BLOOD CK(CPK)-78
___ 05:23AM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:23AM BLOOD TSH-3.9

CT C-SPINE W/O CONTRAST
No acute cervical fracture or malalignment. Moderate multilevel 
degenerative changes. 

CT SINUS/MANDIBLE/MAXILLOFACIAL W/O CONTRAST
Mildly displaced bilateral nasal bone fractures with minimally 
displaced 
anterior nasal spine fracture. 

CT HEAD W/O CONTRAST
No acute intracranial traumatic injury. Moderate age-related 
global atrophy with moderate chronic microvascular 
ischemic disease. Soft tissue contusion at the left frontal 
scalp. Bilateral nasal bone fractures. 

EKG (___)
Sinus rhythm. Right bundle-branch block. Occasional 
ventricular premature beats. No previous tracing available for 
comparison.

EKG (___)
Sinus rhythm with atrial premature beats. Suggested right 
bundle-branch block. Compared to the previous tracing atrial 
premature beats are new. 

CHEST, PA AND LATERAL VIEWS: Lungs are clear. There is no 
pleural effusion 
or pneumothorax. Heart size is normal. There has been prior 
median 
sternotomy and CABG. Mediastinal silhouette is notable for 
tortuosity and 
mild widening of the thoracic aorta. Hilar contours and 
pulmonary vasculature are normal. 

RENAL U/S
Kidneys unremarkable with no hydronephrosis. Enlarged prostate 
of approximately 50cc.

URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

DISCHARGE LABS:
___ 05:25AM BLOOD WBC-6.2 RBC-3.60* Hgb-12.0* Hct-33.2* 
MCV-92 MCH-33.5* MCHC-36.2* RDW-13.2 Plt ___
___ 06:10AM BLOOD Glucose-99 UreaN-24* Creat-2.3* Na-141 
K-3.5 Cl-105 HCO3-27 AnGap-13
___ 05:25AM BLOOD Calcium-8.5 Phos-2.7 Mg-2.6
 
Brief Hospital Course:
This patient is an ___ year old male with a history of CAD s/p 3V 
CABG ___ yrs ago, hypothyroidism and postural hypotension who 
presents s/p fall with LOC, likely secondary to orthostatic 
hypotension.  
.  
ACTIVE ISSUES:
.
# FALL: His fall is most likely secondary to orthostatic 
hypotension. His story, including LOC after getting up from a 
chair with no associated symptoms, is consistent with 
orthostatic hypotension.  At a prior hospitalization for syncope 
at ___ in ___, he was found to have orthostatic 
hypotension with no evidence of seizures or cardiogenic causes 
of syncope.  He has had no CP or SOB, and his normal cardiac 
enzymes do not suggest ACS.  He has also had no palpitations or 
notable arrhythmias on tele that would explain his syncope.  
Mild to moderate AS was noted on TTE with no outflow tract 
obstruction and LVEF>55%, and is not likely to cause syncope.  
In addition, the degree of AS has not changed significantly 
since an echo performed in ___ (AV area 1.3 cm2 in ___, 
1.2cm2 now).  His TSH is 3.9, making hypothyroidism unlikely as 
a cause.  CT spine/head ruled out any acute processes as a cause 
or result of his fall.  He has had no fever or chills to suggest 
infection; CXR was clear and his UA was not suggestive of 
infection.  His UCx had mixed flora consistent with 
contamination.  A tox study performed in the ED was negative.  
Seizure is an unlikely etiology given the recurrence of 
witnessed falls, prior negative work-up and no post-ictal like 
symptoms.  Carotid stenosis is also unlikely as a cause as 
carotid U/S in ___ showed no obstruction to flow.  Mechanical 
fall is not consistent with his history. 
.
In the hospital, his BP on standing has been concerning, 
dropping to ___ and slowly recovering to the ___ after 
walking for a few minutes.  However, he reported no dizziness/HA 
or other symptoms upon standing.  He has been on fludrocortisone 
and midodrine as an outpatient for his hypotension.  In the 
hospital, we kept his fludrocortisone at 0.05mg daily, and 
increased his midodrine dose on ___ from 5mg to 10mg TID.  We 
advised the patient to immediately notify his PCP if he develops 
any urinary symptoms on the increased dose of midodrine.  His 
sitting BP after two doses of 10mg midodrine did not change 
significantly (90s/60s), and BP again fell to ___ on 
standing with no symptoms. 
.
He was evaluated by ___ while in the hospital.  He was found to 
have no functional or safety impairments for a discharge home.  
He was educated about fall/safety prevention at home, including 
the use of ___ stockings and abdominal binder, and slowly going 
from a sitting to standing position.  We also advised him to 
obtain Lifeline and to have family support over the next few 
weeks.  He will be continuing his outpt ___ appointments.  We 
made an outpt appt with geriatrics on ___ to address his 
hypotension and midodrine dosing, and also advised the pt to 
make a follow-up appt with his PCP for within the next two 
weeks.
.  
# CHRONIC RENAL INSUFFICIENCY: While in the hospital, the pt's 
Cr has been 2.1-2.3, which is within his recent baseline 
(1.6-2.3). He has had a history of urinary obstruction in ___ 
___ records.  The pt reports no h/o renal 
dysfunction as far as he is concerned.  His serum and urine 
lytes, FeNa of 1.7%, and exam were not concerning for a prerenal 
state.  Renal u/s showed no hydronephrosis and enlarged 
prostate.  His UA was concerning for granular casts.  We 
recommended a referral by his PCP to see ___ nephrologist for his 
kidney issues. 
.  
# NASAL FRACTURE: He was found to have nasal fractures by CT.  
We provided him with instructions for sinus precautions, and 
provided him with information to make an appointment with 
Plastic and Reconstructive Surgery, should he want surgery for 
the fractures.
.  
INACTIVE ISSUES:
.
# HYPOTHYROID: Recently diagnosed and started on levo.  We 
continued the home dose of levo while in the hospital.
.  
# CAD: s/p 3V CABG, currently on statin alone. He is not managed 
with and aspirin currently and is not sure why.  He continued 
his simvastatin while in the hospital. 

 
Medications on Admission:
1. levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. fludrocortisone 0.1 mg Tablet Sig: one-half Tablet PO DAILY 
(Daily).  
3. rosuvastatin 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
4. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1) 
dose PO DAILY (Daily) as needed for constipation.  
5. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.
Disp:*30 Capsule(s)* Refills:*0*
6. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
Disp:*30 Tablet(s)* Refills:*0*
7. midodrine 5 mg Tablet Sig: One Tablet PO TID (3 times a day).
Disp:*100 Tablet(s)* Refills:*0*
8. Vitamin D-3 1,000 unit Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO once a day.  
 
Discharge Medications:
1. levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. fludrocortisone 0.1 mg Tablet Sig: one-half Tablet PO DAILY 
(Daily).  
3. rosuvastatin 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
4. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1) 
dose PO DAILY (Daily) as needed for constipation.  
5. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.
Disp:*30 Capsule(s)* Refills:*0*
6. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
Disp:*30 Tablet(s)* Refills:*0*
7. midodrine 5 mg Tablet Sig: Two (2) Tablet PO TID (3 times a 
day).
Disp:*100 Tablet(s)* Refills:*0*
8. Vitamin D-3 1,000 unit Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Orthostatic Hypotension

Secondary diagnoses:
coronary artery disease
hypothyroidism
hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
.
It was a pleasure taking care of you at ___ 
___.  You were admitted after a fall you had in your 
home with loss of consciousness.  In the hospital, you were 
found to have a signficant decrease in blood pressure when going 
from a sitting to standing position.  This condition, called 
orthostatic hypotension, is the most likely cause of your recent 
fall.  Tests done in the hospital, including your EKG and 
bloodwork, do not suggest a cardiac cause for your fall.  On 
echocardiogram, we found mild to moderate aortic stenosis that 
is also unlikely to have caused your fall.  Based on your 
symptoms, it is also unlikely that you had a seizure.
.
You have been on two medications, fludrocortisone and midodrine, 
for your orthostatic hypotension.  In the hospital, we increased 
the dose of your midodrine from 5mg to 10mg, three times a day.  
Midodrine can sometimes cause symptoms of urinary impairment, 
such as urinary retention or frequency, or pain on urination; if 
you develop any of these symptoms, contact your PCP as soon as 
possible.  We also stopped your furosemide, which may be 
contributing to your orthostatic hypotension.  We would like you 
to have a follow-up appointment with your PCP, ___, 
___ the next two weeks.  We also made an appointment for you 
to see Dr. ___ the gerontology department for management of 
your orthostatic hypotension on ___.  
.
Because of your orthostatic hypotension, you are at an increased 
risk for falling again.  You do not seem to ordinarily develop 
symptoms when your blood pressure becomes low.  Be especially 
careful when going from a sitting to standing position.  Make 
sure to get up slowly and stand in place while moving your legs 
for a few minutes before beginning to walk.  During the day, 
wear T.E.D./compression stockings and the abdominal binder to 
reduce blood pooling in your legs.  Please continue your 
outpatient physical therapy appointments.  We also recommend 
that you subscribe to lifeline and have regular family support 
over the next few weeks.
.
Your creatine was elevated during this admission, but was stable 
at your baseline levels.  We recommend that you have a 
nephrologist follow you for this.  Your PCP can help you set-up 
this appointment.
.
You have mildly displaced bilateral nasal bone fractures.  These 
normally do not require surgical intervention unless you find 
you are unhappy with your appearance or you have a functional 
difficulty (breathing impedence, bleeding, etc).  You should 
practice 'sinus precautions' for the next week, including:
1) do not blow your nose
2) sneeze with your mouth open
3) sleep with your head elevated to help with drainage and to 
help reduce swelling
4) Avoid medications like aspirin, motrin, ibuprofen, aleve, 
etc., that may increase bleeding. 

 
Followup Instructions:
___